US09079911B2
Step C: 2-(4,6-Dimethylpyrimidin-2-yl)-5-{[4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl]carbonyl}octahydropyrrolo[3,4-c]pyrrole.
To (hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl)methanone (185 mg, 0.4 mmol) in DMF (2.2 mL) was added 2-chloro-4,6-dimethylpyrimidine (61 mg, 0.4 mmol). The flask was heated to 120° C. for 18 h. The flask was allowed to cool to rt, diluted with EtOAc and washed with H2O. The aq was back-extracted with EtOAc (1×). The combined organics were washed with brine and dried (Na2SO4) to give an oil. Purification via silica gel (15-75% EtOAc in hexanes) gave 175 mg (97%) of the title compound. MS (ESI) mass calcd. C22H25N7O2, 419.49; m/z found 420.2 [M+H]+. 1H NMR (CDCl3): 7.73 (s, 2H), 7.49 (d, J=7.8 Hz, 1H), 7.33 (d, J=8.5 Hz, 1H), 6.95 (dd, J=8.5, 2.5 Hz, 1H), 6.29 (s, 1H), 3.93-3.80 (m, 5H), 3.72-3.63 (m, 2H), 3.58 (dd, J=11.6, 5.2 Hz, 1H), 3.46 (dd, J=11.6, 4.3 Hz, 1H), 3.39-3.28 (m, 1H), 3.05-2.84 (m, 3H), 2.33 (s, 6H).

reactant | (hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl)methanone | 0.4 mmol, 185 mg | C1N(CC2C1CNC2)C(=O)C2=C(C=C(C=C2)OC)N2N=CC=N2 | C16H19N5O2
reactant | 2-chloro-4,6-dimethylpyrimidine | 0.4 mmol, 61 mg | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
solvent | DMF | 2.2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4,6-Dimethylpyrimidin-2-yl)-5-{[4-methoxy-2-(2H-1,2,3-triazol-2-yl)phenyl]carbonyl}octahydropyrrolo[3,4-c]pyrrole | 175 mg, 97% | CC1=NC(=NC(=C1)C)N1CC2CN(CC2C1)C(=O)C1=C(C=C(C=C1)OC)N1N=CC=N1 | C22H25N7O2
